US07169928B2
3-(4-Chlorophenyl)propyl 3-piperidinopropyl ether
Sodium 3-piperidinopropanolate (20 mmol), 7 mmol of 3-(4-chlorophenyl)propylmesylate, and 0.5 mmol of 15-crown-5 in 30 ml of dry toluene were refluxed for 4 hours. The solvent was evaporated and the residue purified by column chromatography on silica gel (eluent: methylene chloride/methanol (90/10)). After removing the solvent under reduced pressure the residue was crystallized with oxalic acid from diethyl ether/ethanol.

reactant | Sodium 3-piperidinopropanolate | 20 mmol | N1(CCCCC1)CCC[O-].[Na+]
reactant | 3-(4-chlorophenyl)propylmesylate | 7 mmol | ClC1=CC=C(C=C1)CCCCS(=O)(=O)[O-]
reactant | 15-crown-5 | 0.5 mmol | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Chlorophenyl)propyl 3-piperidinopropyl ether | N1(CCCCC1)CCCOCCCC1=CC=C(C=C1)Cl | C17H26ClNO
